US07960419B2
Add bromine (0.15 mL, 0.47 g, 2.94 mmol) to (R,R)—N-[3-(3-fluoro-4-methoxy-phenyl)isothiazol-5-yl]-2-methylcyclopropanecarboxamide (0.45 g, 1.47 mmol) in dichloromethane (3 mL) dropwise. Monitor by TLC and stop bromine addition when complete. Dilute the reaction mixture with EtOAc (100 mL) and pour into aqueous Na2S2O3 (1 N). Collect the organic phase, wash with brine (50 mL) and water (80 mL), and evaporate. Chromatograph over silica gel, eluting with 10-50% EtOAc in hexane, to afford (R,R)—N-[4-bromo-3-(3-fluoro-4-methoxyphenyl)isothiazol-5-yl]-2-methyl-cyclopropanecarboxamide. Yield: 97.1%. ES-MS: m/e 387.0 (m+1).

reactant | bromine | 2.94 mmol, 0.15 mL, 0.47 g | BrBr | Br2
reactant | (R,R)—N-[3-(3-fluoro-4-methoxy-phenyl)isothiazol-5-yl]-2-methylcyclopropanecarboxamide | 1.47 mmol, 0.45 g | FC=1C=C(C=CC1OC)C1=NSC(=C1)NC(=O)[C@H]1[C@@H](C1)C | C15H15FN2O2S
reactant | Na2S2O3 | 1 N | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R,R)—N-[4-bromo-3-(3-fluoro-4-methoxyphenyl)isothiazol-5-yl]-2-methyl-cyclopropanecarboxamide | Yield: 97.1% | BrC=1C(=NSC1NC(=O)[C@H]1[C@@H](C1)C)C1=CC(=C(C=C1)OC)F | C15H14BrFN2O2S
